US05246951
6-Benzoylbenzoselenazolinone
1.98 g (0.01 mol) of benzoselenazolinone, 50 to 60 g of polyphosphoric acid and 1.35 g (0.011 mol) of benzoic acid are introduced into a 100-cm3 round-bottomed flask. The mixture is heated on an oil bath to a temperature of 130° C. for a time T of 3 hours, with stirring. The reaction mixture is then hydrolyzed in 300 cm3 of cold water. The product is drained, washed with water, dried and recrystallized.

reactant | benzoselenazolinone | 0.01 mol, 1.98 g | [Se]1(C=NC2=C1C=CC=C2)=O | C7H5NOSe
reactant | benzoic acid | 0.011 mol, 1.35 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | water | 300 cm3 | O | H2O
product | 6-Benzoylbenzoselenazolinone | C(C1=CC=CC=C1)(=O)C1=CC2=C(N=C[Se]2=O)C=C1 | C14H9NO2Se
